US04275178
Graft-Copolymers A-5, A-6, A-7 and A-8 were prepared by the procedure of Example 18 except that a crosslinked homopolymer of 2-ethylhexyl acrylate obtained through emulsion polymerization using 1% of 1,3-butanediol dimethacrylate as the crosslinking agent, a crosslinked copolymer comprising 55% of 2-ethylhexyl acrylate, 30% of butadiene, and 15% of methyl methacrylate obtained by using 1% of ethyleneglycol dimethacrylate, a crosslinked homopolymer of butyl acrylate obtained by using 1% of 1,3-butanediol dimethacrylate as the crosslinking agent, and a crosslinked homopolymer of butadiene obtained by using 1% of divinylbenzene as the crosslinking agent were respectively used as elastomeric trunk polymers. These graft-copolymers alone are shown in Table 4 as Comparison Examples 10 through 13, all of which exhibited poor powder characteristics.

reactant | 2-ethylhexyl acrylate | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | 1,3-butanediol dimethacrylate | C(C(=C)C)(=O)OCCC(C)OC(C(=C)C)=O | C12H18O4
reactant | butadiene | C=CC=C | C4H6
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | ethyleneglycol dimethacrylate | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
